US09372281B2
Epichlorohydrin (5563 g, 60.12 mol) and methanol (2500 g) were put into a 10-liter reactor. The reaction temperature was adjusted to 6° C. When the reaction temperature reached 6° C., sodium hydroxide (50% aq., 5 g) was added to the mixture. NaSH.xH2O (70% NaSH, 3660 g, 45.75 mol), methanol (1000 g) and water (500 g) were completely dissolved with stirring in another 10-liter reactor, and hydrochloric acid was slowly added dropwise thereto to generate hydrogen sulfide gas. The hydrogen sulfide gas was added to the epichlorohydrin solution to obtain bis(3-chloro-2-hydroxypropyl)sulfide. The completion of the reaction was defined as the time when epichlorohydrin and 3-chloro-2-hydroxy-propane-1-thiol disappeared completely and bis(3-chloro-2-hydroxypropyl)sulfide was formed, which was confirmed by GC. When 3-chloro-2-hydroxy-propane-1-thiol was present, the content of the thiol compound was calculated from the relative integral ratio by GC and epichlorohydrin was further added in an amount corresponding to the calculated content. The reaction of epichlorohydrin and the thiol compound afforded bis(3-chloro-2-hydroxypropyl)sulfide (BCPS).

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 3-chloro-2-hydroxy-propane-1-thiol | ClCC(CS)O | C3H7ClOS
product | bis(3-chloro-2-hydroxypropyl)sulfide | ClCC(CSCC(CCl)O)O | C6H12Cl2O2S
